US07696223B2
a) 4-Hydroxy-9-methyl-1-phenyl-9H-b-carboline-3-carboxylic acid ethyl ester
A mixture of 1-bromo-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester (150 mg), tributyl phenyl tin (0.169 mL), and Pd(PPh3)2Cl2 (15 mg) in DMF (1.5 mL) was heated at 120° C. for 41 min. The reaction was then partitioned between EtOAc and water, the organic phase was subsequently washed with sat. NaCl solution, dried over anhydrous sodium sulfate and then filtered, concentrated; the residue was purified with column to give the title compound (94 mg). ESI MS (m/z): 347 (M+H)+.

reactant | 1-bromo-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C)Br | C15H13BrN2O3
reactant | tributyl phenyl tin | 0.169 mL | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Hydroxy-9-methyl-1-phenyl-9H-b-carboline-3-carboxylic acid ethyl ester | 94 mg | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C)C1=CC=CC=C1 | C21H18N2O3
